US07214673B2
(S)-2-Methyl-10-[4-methyl-3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene
Add formaldehyde (56 μL, 0.70 mmol, 37% in water) to a solution of (S)-2-methyl-10-[3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene (290 mg, 0.64 mmol) in methylene chloride (20 mL). Stir 15 min at ambient temperature. Add sodium triacetoxyborohydride (204 mg, 0.96 mmol) and stir 30 min at ambient temperature. Dilute with saturated sodium bicarbonate solution and extract with methylene chloride. Dry the extracts with sodium sulfate, filter and concentrate the filtrate. Purify by radial silica gel chromatography using a 2 mm plate and 2N ammonia in methanol-methylene chloride (1%–2%) as the eluent to give 290 mg (97%) of the title compound: mass spectrum (ion spray): m/z=467 (M+1), 465 (M−1). HR-MS calculated for C29H31N4S: 467.2269. Found 467.2278. HPLC: Symmetry C18 column (3.5 μm, 4.6×50 mm). Gradient 5% to 90% solvent B in 7 min. Solvent A was 0.1% (v/v) TFA in water and solvent B was acetonitrile. Retention time 5.7 min; 100% pure.

reactant | formaldehyde | 0.70 mmol, 56 μL | C=O | CH2O
reactant | (S)-2-methyl-10-[3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.64 mmol, 290 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC1=CC=CC=C31 | C28H28N4S
reactant | sodium triacetoxyborohydride | 0.96 mmol, 204 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-2-Methyl-10-[4-methyl-3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 290 mg, 97% | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=CC1=CC=CC=C31 | C29H30N4S
